US06077954
N-(2-Hydroxyethyl)-N-tritylsulfenyl-3-amino-1-propanol
N-(2-hydroxyethyl)-3-amino-1-propanol (5.0 g, 41.9 mmol) is coevaporated several times with pyridine (20 mL) and then dissolved in pyridine (100 mL). The reaction flask is flushed with Argon and trimethylsilylchloride (2.47 g, 209.5 mmol) is added dropwise. The reaction mixture is stirred for 1 hour. Triphenyl methanesulfenyl chloride (14.32 g, 46.09 mmol) is dissolved in CH2Cl2 and added via dropping funnel to the cooled reaction mixture. The reaction mixture is warmed to room temperature and stirred for 18 hours. The reaction mixture is concentrated in vacuo and the resultant residue is partitioned between H2O and EtOAc (100 ml, 1:1). The H2O layer is separated and extracted with EtOAc (3×50 ml). The EtOAc extracts are pooled, dried (MgSO4) and filtered. The filtrate is concentrated in vacuo and the residue is purified by silica gel flash column chromatography with EtOAc/hexanes as the eluent. The appropriate fractions are pooled and concentrated in vacuo to give the title compound.

reactant | N-(2-hydroxyethyl)-3-amino-1-propanol | 41.9 mmol, 5.0 g | OCCNCCCO | C5H13NO2
reactant | trimethylsilylchloride | 209.5 mmol, 2.47 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | Triphenyl methanesulfenyl chloride | 46.09 mmol, 14.32 g | C1(=CC=CC=C1)C(SCl)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15ClS
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | N-(2-Hydroxyethyl)-N-tritylsulfenyl-3-amino-1-propanol | OCCN(CCCO)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H27NO2S
